US05885990
Preparation of 6-amidino-1-carboxymethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.
45 Milliliters of 10% aqueous methanesulfonic acid solution was added to 500 mg of 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.dimethanesulfonate, followed by stirring for 5 hours at 80° C. After leaving the mixture for cooling, 350 mg of active carbon was added to the reaction mixture, followed by stirring for 30 minutes at room temperature. Insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. To the residue was added a small amount of water. The solution was added dropwise to a mixed liquid of 150 ml of acetone and 50 ml of ether, followed by stirring for 1 hour under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of acetone to obtain 236.1 mg of the desired product.

reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate | 500 mg | N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)OC)C=C1 | C24H23N5O4
product | 6-amidino-1-carboxymethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate | 236.1 mg | N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)O)C=C1 | C23H21N5O4
